US07297792B2
4-Diethylaminomethyl-N-[5-(2,3-difluorophenyl)-1H-pyrazolo[3,4-c]pyridazin-3-yl]benzamide
4-Diethylaminomethylbenzoyl chloride (0.503 g, 2.43 mmol) was added to a solution of 3-amino-5-(2,3-difluorophenyl)-1H-pyrazolo[3,4-c]pyridine (Description 14; 0.200 g, 0.81 mmol) in pyridine (5 mL). The mixture was heated at reflux for 16 hours then the solvent was removed under reduced pressure. The residue was azeotroped, firstly with water and then with ethanol. The resulting solid was dissolved in dimethylformamide and purified initially by preparative HPLC on a C18 column, using a gradient elution with 10-90% v/v of acetonitrile (containing 0.01% trifluoroacetic acid) and water (containing 0.1% trifluoroacetic acid). Subsequent purification by silica gel chromatography using initially 5% v/v methanol in dichloromethane as eluent, followed by 5% v/v 1N methanolic ammonia in dichloromethane as eluent afforded the title compound, a solid.

reactant | 4-Diethylaminomethylbenzoyl chloride | 2.43 mmol, 0.503 g | C(C)N(CC)CC1=CC=C(C(=O)Cl)C=C1 | C12H16ClNO
reactant | 3-amino-5-(2,3-difluorophenyl)-1H-pyrazolo[3,4-c]pyridine | 0.81 mmol, 0.200 g | NC1=NNC2=CN=C(C=C21)C2=C(C(=CC=C2)F)F | C12H8F2N4
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 4-Diethylaminomethyl-N-[5-(2,3-difluorophenyl)-1H-pyrazolo[3,4-c]pyridazin-3-yl]benzamide | C(C)N(CC)CC1=CC=C(C(=O)NC2=NNC3=NN=C(C=C32)C3=C(C(=CC=C3)F)F)C=C1 | C23H22F2N6O
